US07390830B1
Synthesis of (R)-1-(4-butylbenzyl)-3-[[N-(3-trifluoromethylbenzoyl)glycyl]amino]pyrrolidine (Compd. No. 1648)
Acetic acid (0.060 mL) was added to a mixture of (R)-3-[N-[3-(trifluoromethyl)benzoyl]glycyl]aminopyrrolidine (0.050 mL) with 4-butylbenzaldehyde (0.18 mmol), NaBH3CN (0.23 mmol) and methanol (1.85 mL). The resulting reaction mixture was stirred at 60° C. for 12 hours, cooled to room temperature, loaded onto a Varian™ SCX column and washed with methanol (15 mL). The obtained crude product was eluted with a solution of 2 M NH3 in methanol (5 mL) and concentrated to thereby afford (R)-1-(4-butylbenzyl)-3-[[N-(3-trifluoromethylbenzoyl)glycyl]amino]pyrrolidine (Compd. No. 1648) (20.6 mg, 89%). The purity was determined by RPLC/MS (91%). ESI/MS m/e 462.2 (M++H, C25H30F3N3O2).

reactant | Acetic acid | 0.060 mL | C(C)(=O)O | C2H4O2
reactant | (R)-3-[N-[3-(trifluoromethyl)benzoyl]glycyl]aminopyrrolidine | 0.050 mL | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=CC1)(F)F | C14H16F3N3O2
reactant | 4-butylbenzaldehyde | 0.18 mmol | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | NaBH3CN | 0.23 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 1.85 mL | CO | CH4O
product | (R)-1-(4-butylbenzyl)-3-[[N-(3-trifluoromethylbenzoyl)glycyl]amino]pyrrolidine | C(CCC)C1=CC=C(CN2C[C@@H](CC2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C25H30F3N3O2
